US09216965B2
To a solution of 6-(tert-butylsulfonyl)-4-chloroquinolin-7-ol (500 mg, 1.668 mmol) in DMF (8162 μl) was added K2CO3 (692 mg, 5.00 mmol) followed by 1-chloropropan-2-one (178 μl, 2.502 mmol). This was heated to 60° C. for 30 min. The crude sample was purified via Biotage normal phase chromatography (25 g SNAP column, 0%-65%, 65%. hex/EtOAc). The pure product containing-fractions were combined and concentrated leading to the product as an off-white solid: 1-((6-(tert-butylsulfonyl)-4-chloroquinolin-7-yl)oxy)propan-2-one (192 mg, 0.540 mmol, 32.3% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34 (s, 9H) 2.27 (s, 3H) 5.21 (s, 2H) 7.64 (s, 1H) 7.76 (d, J=4.80 Hz, 1H) 8.67 (s, 1H) 8.93 (d, J=4.80 Hz, 1H). MS: m/z: 356.1 [M+H]+.

reactant | 6-(tert-butylsulfonyl)-4-chloroquinolin-7-ol | 1.668 mmol, 500 mg | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1O)Cl | C13H14ClNO3S
reactant | K2CO3 | 5.00 mmol, 692 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloropropan-2-one | 2.502 mmol, 178 μl | ClCC(C)=O | C3H5ClO
solvent | DMF | 8162 μl | CN(C)C=O | C3H7NO
product | 1-((6-(tert-butylsulfonyl)-4-chloroquinolin-7-yl)oxy)propan-2-one | 0.540 mmol, 192 mg, 32.3% yield | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCC(C)=O)Cl | C16H18ClNO4S
